US09334267B2
Prop-1-en-2-yl 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate
Add 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (5.0 g, 19.91 mmol) and isopropenyl chloroformate (2.40 mL, 21.90 mmol) in EtOAc (60 mL) and saturated aqueous NaHCO3 (60 mL) and stir at RT for 6 h. Separate the layers, extract the aqueous layer with EtOAc (2×), wash the combined organics with brine, dry over Na2SO4 and concentrate to obtain the title compound. Use for the next reaction without further purification (assuming 100% yield). MS (m/z): 336.2 (M+1).

reactant | 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 19.91 mmol, 5.0 g | FC1=C(N)C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C | C13H19BFNO2
reactant | isopropenyl chloroformate | 21.90 mmol, 2.40 mL | ClC(=O)OC(=C)C | C4H5ClO2
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
product | Prop-1-en-2-yl 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | 100% yield | FC1=C(C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C)NC(OC(=C)C)=O | C17H23BFNO4
